US08487108B2
To a solution of tert-butyl (S)-2-amino-3-cyclohexylpropylmethylcarbamate (65 mg, 0.24 mmol) and CDI (40 mg, 0.24 mmol) in anhydrous CH2Cl2 (5 mL) cooled in an ice bath was added DIEA (104 mg, 0.81 mmol). After addition, the mixture was stirred for 1 h at 0° C., a solution of methyl 2-((R)-(3-fluorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate (50 mg, 0.16 mmol) in anhydrous CH2Cl2 (5 mL) was added dropwise. The reaction mixture was allowed to warm to rt and stirred overnight. After the reaction was complete, the solvent was removed in vacuo. The product was purified by preparative tlc to afford the desired isomer of methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(3-fluorophenyl)methoxy)ethylcarbamate (50 mg, 52% yield). MS (E/Z): 607 (M+H+).

reactant | tert-butyl (S)-2-amino-3-cyclohexylpropylmethylcarbamate | 0.24 mmol, 65 mg | N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1 | C15H30N2O2
reactant | CDI | 0.24 mmol, 40 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | 0.81 mmol, 104 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 2-((R)-(3-fluorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate | 0.16 mmol, 50 mg | FC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CNCCC1 | C16H23FN2O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(3-fluorophenyl)methoxy)ethylcarbamate | 50 mg, 52% yield | C1(CCCCC1)C[C@@H](CN(C(=O)OC(C)(C)C)C)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC(=CC=C1)F | C32H51FN4O6
